US05723450
4-(O-Benzylhydroxylamino)-3-chloro-2-ethylpyridine
Preparation was carried out analogously to Example 1 from 3,4-dichloro-2-ethylpyridine and O-benzylhydroxylamine. Yield: 99%

reactant | 3,4-dichloro-2-ethylpyridine | ClC=1C(=NC=CC1Cl)CC | C7H7Cl2N
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
product | 4-(O-Benzylhydroxylamino)-3-chloro-2-ethylpyridine | Yield: 99% | C(C1=CC=CC=C1)ONC1=C(C(=NC=C1)CC)Cl | C14H15ClN2O
